US08067445B2
Step 5: {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-methanesulfonyl-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester
Trifluoro-methanesulfonic acid 2-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4-methanesulfonyl-phenyl ester (1.3 g, 2.62 mmol), [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (1.26 g, 3.93 mmol), and cesium carbonate (2.55 g, 7.85 mmol) were combined in DMF. (1,1′-Bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.213 g, 0.26 mmol) was added, and the reaction was immediately immersed in an oil bath pre-heated to 45° C. The reaction was stirred at 65° C. for 20 minutes, and then worked-up and purified to give the title compound, contaminated with a phenol by-product. The mixture was dissolved in CH2Cl2 (100 mL) and washed with 0.5 N aqueous NaOH, and then concentrated to give the title compound.

reactant | Trifluoro-methanesulfonic acid 2-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4-methanesulfonyl-phenyl ester | 2.62 mmol, 1.3 g | C(C1=CC=CC=C1)OC(=O)N(CC)CC1=C(C=CC(=C1)S(=O)(=O)C)OS(=O)(=O)C(F)(F)F | C19H20F3NO7S2
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 3.93 mmol, 1.26 g | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
reactant | cesium carbonate | 7.85 mmol, 2.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | (1,1′-Bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.26 mmol, 0.213 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-methanesulfonyl-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)S(=O)(=O)C)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C29H33NO7S
